US08895544B2
2-[6-(2-Ethyl-5-fluoro-4-methoxy-phenyl)-1H-indazol-3-yl]-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine trihydrochloride salt
To a solution of 2-[6-(2-ethyl-5-fluoro-4-methoxy-phenyl)-1-(tetrahydro-pyran-2-yl)-1H-indazol-3-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester (Preparation 23, 801 mg, 1.13 mmol) in methanol (20 mL) was added concentrated hydrochloric acid (12M, 8 mL) and the resulting solution was heated at 60° C. for 18 hours. The reaction mixture was cooled to room temperature and concentrated in vacuo to furnish the title compound (739 mg).

reactant | 2-[6-(2-ethyl-5-fluoro-4-methoxy-phenyl)-1-(tetrahydro-pyran-2-yl)-1H-indazol-3-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester | 1.13 mmol, 801 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(C(=N2)C2=NN(C1=CC(=CC=C21)C2=C(C=C(C(=C2)F)OC)CC)C2OCCCC2)COCC[Si](C)(C)C | C38H52FN5O5Si
reactant | hydrochloric acid | 12M, 8 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 2-[6-(2-Ethyl-5-fluoro-4-methoxy-phenyl)-1H-indazol-3-yl]-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine trihydrochloride salt | 739 mg | Cl.Cl.Cl.C(C)C1=C(C=C(C(=C1)OC)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1 | InChI=1S/C22H22FN5O.3ClH/c1-3-12-9-20(29-2)16(23)10-15(12)13-4-5-14-18(8-13)27-28-21(14)22-25-17-6-7-24-11-19(17)26-22;;;/h4-5,8-10,24H,3,6-7,11H2,1-2H3,(H,25,26)(H,27,28);3*1H
